US08470823B2
Step 1: tert-butyl (1-acetyl-4-phenylpyrrolidin-3-yl)carbamate (M1)
To an ice cooled stirred solution of tert-butyl (4-phenylpyrrolidin-3-yl)carbamate (prepared as described in J. Med. Chem. 1993, 36, 4139 starting from (2E)-3-phenylprop-2-enoic acid) (1.0 eq.) in dry DCM (0.1M) were slowly added acetyl chloride (4.0 eq.) and DIPEA (4.0 eq.). The reaction mixture was stirred for 1 h at RT, then diluted with DCM, washed with sat. aq. NaHCO3 sol., water and brine. The solution was dried (Na2SO4), filtered and the solvent was removed under reduced pressure. The crude product was purified by flash chromatography eluting with 5-100% EtOAc/petroleum ether, then eluting with 0-10% MeOH/EtOAc affording the titled compound as yellow oil. MS (ES) C17H24N2O3 requires: 304, found: 305 (M+H)+.

reactant | tert-butyl (4-phenylpyrrolidin-3-yl)carbamate | 1.0 eq. | C1(=CC=CC=C1)C1C(CNC1)NC(OC(C)(C)C)=O | C15H22N2O2
reactant | acetyl chloride | 4.0 eq. | C(C)(=O)Cl | C2H3ClO
reactant | DIPEA | 4.0 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 0.1M | C(Cl)Cl | CH2Cl2
product | tert-butyl (1-acetyl-4-phenylpyrrolidin-3-yl)carbamate | C(C)(=O)N1CC(C(C1)C1=CC=CC=C1)NC(OC(C)(C)C)=O | C17H24N2O3
